US09233982B2
Step 1: 2-bromo-6,7-dihydrobenzo[b]thiophen-4(5H)-one
6,7-Dihydro-4-Benzo[B]thiophenone (1.5 g, 9.86 mmol) was dissolved in acetic acid (10 mL) and water (10 mL). The mixture was cooled to 0° C. and bromine (0.51 mL, 9.86 mmol) was added drop-wise. After 20 min at 0° C. the reaction was warmed to room temperature and stirred for 18 hr. The reaction mixture was cooled in ice and then treated with 1 M aqueous sodium hydroxide solution until the mixture was basic. A precipitate formed which was collected by filtration, washed with water and dried in a vacuum oven at 50° C. to afford the title compound as a grey solid (2.1 g, 96%).

reactant | 6,7-Dihydro-4-Benzo[B]thiophenone | 9.86 mmol, 1.5 g | S1C2=C(C=C1)C(CCC2)=O | C8H8OS
reactant | bromine | 9.86 mmol, 0.51 mL | BrBr | Br2
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | water | 10 mL | O | H2O
product | 2-bromo-6,7-dihydrobenzo[b]thiophen-4(5H)-one | 2.1 g, 96% | BrC1=CC2=C(S1)CCCC2=O | C8H7BrOS
